US07576115B2
2) Synthesis of 4-{[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)-carbonothioyl]amino}-2-chlorobenzoic acid
From 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (50 mg, 0.17 mmol) and 4-hydrazinocabonothioylamino-2-chlorobenzoic acid (42.8 mg, 0.17 mmol), the desired product was obtained in the same manner as in Synthetic Example 50 as a pale yellow solid (61.1 mg, yield 68%)

reactant | 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.17 mmol, 50 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | 4-hydrazinocabonothioylamino-2-chlorobenzoic acid | 0.17 mmol, 42.8 mg | N(N)C(=S)NC1=CC(=C(C(=O)O)C=C1)Cl | C8H8ClN3O2S
product | 4-{[(2-{1-[5-(3,4-dichlorophenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)-carbonothioyl]amino}-2-chlorobenzoic acid | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=S)NC1=CC(=C(C(=O)O)C=C1)Cl)O | C20H14Cl3N3O3S2
